US08809352B2
1-((4′-Chlorobiphenyl-2-yl)methyl)-3-fluoropiperidin-4-one
3-Fluoro-piperidin-4-one (0.32 g, 2.7 mmol) was dissolved in DMF (13 mL) and 4′-chloro-2-(iodomethyl)biphenyl (1.03 g, 3.13 mmol) was added followed by DIPEA (1.06 g, 8.2 mmol). The reaction was stirred at ambient temperature for 16 hours, and then poured into EtOAc (100 mL). The organics were washed with water followed by brine, dried (Na2SO4), filtered and concentrated. Purification by flash chromatography on silica gel afforded the title compound (0.75 g, 86% yield). 1H NMR (400 MHz, CDCl3) δ ppm 7.47-7.59 (m, 1H), 7.21-7.47 (m, 7H), 4.72-5.00 (m, 1H), 3.62-3.65 (d, J=12 Hz, 1H), 3.56-3.59 (d, J=12 Hz, 1H), 3.25-3.42 (m, 1H), 2.88-3.06 (m, 1H), 2.28-2.63 (m, 4H).

reactant | 3-Fluoro-piperidin-4-one | 2.7 mmol, 0.32 g | FC1CNCCC1=O | C5H8FNO
reactant | 4′-chloro-2-(iodomethyl)biphenyl | 3.13 mmol, 1.03 g | ClC1=CC=C(C=C1)C1=C(C=CC=C1)CI | C13H10ClI
reactant | DIPEA | 8.2 mmol, 1.06 g | CCN(C(C)C)C(C)C | C8H19N
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
product | 1-((4′-Chlorobiphenyl-2-yl)methyl)-3-fluoropiperidin-4-one | 0.75 g, 86% yield | ClC1=CC=C(C=C1)C1=C(C=CC=C1)CN1CC(C(CC1)=O)F | C18H17ClFNO
